US04049695
The m-trifluoromethylbenzenesulfonyl chloride starting material was prepared by reacting benzotrifluoride with chlorosulfonic acid in the presence of oleum (65% SO3), according to the method described in Chemical Abstracts 75, 19942d, (1971); German Offen. No. 1,954,448.

reactant | benzotrifluoride | C1(=CC=CC=C1)C(F)(F)F | C7H5F3
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | oleum | OS(=O)(=O)O.O=S(=O)=O
product | m-trifluoromethylbenzenesulfonyl chloride | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
